US08445480B2
Step B: 4-{5-Cyano-7-[(1Z)-1-methylprop-1-en-1-yl]-1,3-benzoxazol-2-yl}-N-({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide
A mixture of 4-(7-bromo-5-cyano-1,3-benzoxazol-2-yl)-N-({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide (30 mg, 0.051 mmol), [(1E)-1-methylprop-1-en-1-yl]boronic acid (18 mg, 0.18 mmol), potassium carbonate (3M solution in water) (150 μl), and 1,1′-bis(di-t-butylphosphino)-ferrocene palladium chloride (2 mg, 0.0031 mmol) in tetrahydrofuran (5 ml) was heated at reflux overnight. The mixture was diluted with ethyl acetate, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography to afford the title compound. Mass spectrum (ESI) 561.2 (M+1).

reactant | 4-(7-bromo-5-cyano-1,3-benzoxazol-2-yl)-N-({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide | 0.051 mmol, 30 mg | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C(=O)NCC1CCN(CC1)C1=NC=CC(=N1)C(F)(F)F)C=C2)C#N | C26H20BrF3N6O2
reactant | [(1E)-1-methylprop-1-en-1-yl]boronic acid | 0.18 mmol, 18 mg | C\C(=C\C)\B(O)O | C4H9BO2
reactant | potassium carbonate | 3M, 150 μl | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(di-t-butylphosphino)-ferrocene palladium chloride | 0.0031 mmol, 2 mg | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | 4-{5-Cyano-7-[(1Z)-1-methylprop-1-en-1-yl]-1,3-benzoxazol-2-yl}-N-({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCC3CCN(CC3)C3=NC=CC(=N3)C(F)(F)F)C=C2)C1)\C(=C/C)\C | C30H27F3N6O2
